US03935214
b. 1-(4'-Chloro benzyl)-2-phenyl-3-keto-4-(diethylamino ethyl) piperazine
80 g. of 1-(diethylamino ethyl)-2-keto-3-phenyl piperazine containing the above mentioned isomer are boiled under reflux with 54 g. of p-chloro benzylchloride, 101 g. of triethylamine, and 300 cc. of toluene for 5 hours. The precipitated triethyl ammonium chloride is removed from the reaction solution by extraction with water while still warm. The separated toluene layer is freed of the solvent, the residue is dissolved in benzene, and insoluble matter is filtered off.

reactant | 1-(diethylamino ethyl)-2-keto-3-phenyl piperazine | C(C)N(CC)CCN1C(C(NCC1)C1=CC=CC=C1)=O | C16H25N3O
reactant | p-chloro benzylchloride | ClC1=CC=C(CCl)C=C1 | C7H6Cl2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-(4'-Chloro benzyl)-2-phenyl-3-keto-4-(diethylamino ethyl) piperazine | ClC1=CC=C(CN2C(C(N(CC2)CCN(CC)CC)=O)C2=CC=CC=C2)C=C1 | C23H30ClN3O
